US08809336B2
25C. 4-(4-Chlorophenyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-ylamine
A solution of 4-(4-chlorophenyl)piperidin-4-yl amine hydrochloride (0.030 g, 0.1058 mmol), 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (0.016 g, 0.1058 mmol) and triethylamine (0.074 ml, 0.5289 mmol) in n-butanol (1.0 ml) was heated to 100° C. for 2 days. Concentration and purification by SCX-2 Isolute column (2 g), eluting with 1M NH3/MeOH, followed by silica column chromatography (20% methanol in DCM) gave a white solid (0.026 g, 74%). LC-MS (LCT2) m/z 328 [M+H+], Rt 2.59 min.

reactant | 4-(4-chlorophenyl)piperidin-4-yl amine hydrochloride | 0.1058 mmol, 0.030 g | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)N
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.1058 mmol, 0.016 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | triethylamine | 0.5289 mmol, 0.074 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 1.0 ml | C(CCC)O | C4H10O
product | 4-(4-Chlorophenyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-4-ylamine | 0.026 g, 74% | ClC1=CC=C(C=C1)C1(CCN(CC1)C=1C2=C(N=CN1)NC=C2)N | C17H18ClN5
